** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/SAR_ADC_tb.sch
**.subckt SAR_ADC_tb D6 D5 D4 D3 D2 D1 D0 D7 dac_clk
*.iopin D6
*.iopin D5
*.iopin D4
*.iopin D3
*.iopin D2
*.iopin D1
*.iopin D0
*.iopin D7
*.iopin dac_clk
V1 clk_comp GND dc 0 ac 0 PULSE(0 1.2 comparator_delay 10p 10p T_algo_PW T_algo)
V6 vdd GND 1.2
V7 bias GND 0.6
V12 dac_clk GND dc 0 ac 0 PULSE(0 1.2 DAC_delay 10p 10p DAC_PW T)
V11 vin_pos GND dc 0 ac 0 SIN(0.6 0.3 12.7k 0 0 0)
V4 vin_neg GND dc 0 ac 0 SIN(0.6 0.3 12.7k 0 0 180)
V5 clk_samp GND dc 0 ac 0 PULSE(0 1.2 0 10p 10p T_half T)
C3 clk_algo GND 20f m=1
x7 vdd vdd GND net12 net11 BN5 BN6 net10 BN_MSB net16 net15 BN1 BN2 net14 BN3 net13 BN4 switch_array
x4 vdd vdd GND net7 net8 B5 B6 net9 B_MSB net3 net4 B1 B2 net5 B3 net6 B4 switch_array
x2 net2 CDAC_v+ net7 net8 net5 net6 net4 net3 vdd net9 C-DAC
x8 vdd clk_algo Om Op GND nand_gate
A1 [ clk_algo ] [ net17 ] adc1
.model adc1 adc_bridge in_low=0.2 in_high=0.8
A2 [ Op ] [ net18 ] adc1
.model adc1 adc_bridge in_low=0.2 in_high=0.8
A3 [ vdd ] [ net19 ] adc1
.model adc1 adc_bridge in_low=0.2 in_high=0.8
A4 [ Om ] [ net20 ] adc1
.model adc1 adc_bridge in_low=0.2 in_high=0.8
A5 [ clk_samp ] [ net21 ] adc1
.model adc1 adc_bridge in_low=0.2 in_high=0.8
A6 [ net43 ] [ B1 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A7 [ net42 ] [ B2 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A8 [ net41 ] [ B3 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A9 [ net40 ] [ B4 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A10 [ net39 ] [ B5 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A11 [ net38 ] [ B6 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A12 [ net37 ] [ B_MSB ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A13 [ net36 ] [ BN1 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A14 [ net35 ] [ BN2 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A15 [ net34 ] [ BN3 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A16 [ net33 ] [ BN4 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A17 [ net32 ] [ BN5 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A18 [ net31 ] [ BN6 ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A19 [ net30 ] [ BN_MSB ] dac1
.model dac1 dac_bridge out_low=0.2 out_high=0.8
A20 [ net29 ] [ D7 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A21 [ net28 ] [ D6 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A22 [ net27 ] [ D5 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A23 [ net26 ] [ D4 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A24 [ net25 ] [ D3 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A25 [ net24 ] [ D2 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A26 [ net23 ] [ D1 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A27 [ net22 ] [ D0 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
x1 vdd vin_pos net2 clk_samp GND bootstrap_switch
x6 vdd vin_neg net1 clk_samp GND bootstrap_switch
x3 vdd bias CDAC_v+ CDAC_v- Om Op clk_comp GND dynamic_comparator
x9 net1 CDAC_v- net12 net11 net14 net13 net15 net16 vdd net10 C-DAC
adut [ net17 net18 net19 net20 net21 ] [ net43 net42 net41 net40 net39 net38 net37 net36 net35 net34 net33 net32 net31 net30 net29
+ net28 net27 net26 net25 net24 net23 net22 ] null dut
.model dut d_cosim simulation=./sar_logic.so
**** begin user architecture code


.param temp=27
.param T = 1u
.param T_half = T/2
.param T_algo = T/16
.param T_algo_delay = T/10
.param T_algo_PW = T/32
.param DAC_delay = 0.99*T
.param DAC_PW = T/20
.param comparator_delay = 0.328*T

.control
tran 1n 320m
let vin_diff = v(Vin_pos) - v(Vin_neg)
let comp_diff = v(op)- v(om)
set wr_singlescale
set wr_vecnames
wrdata bit_data.txt D0 D1 D2 D3 D4 D5 D6 D7 vin_diff dac_clk
write SAR_ADC_tb.raw
.endc


 .lib cornerMOSlv.lib mos_tt
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

**** end user architecture code
**.ends

* expanding   symbol:  switch_array.sym # of pins=17
** sym_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/switch_array.sym
** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/switch_array.sch
.subckt switch_array vref vdd gnd S5 S6 D5 D6 S_MSB D_MSB S1 S2 D1 D2 S3 D3 S4 D4
*.iopin S_MSB
*.iopin S6
*.iopin D_MSB
*.iopin D6
*.iopin S5
*.iopin D5
*.iopin S4
*.iopin S3
*.iopin S2
*.iopin D4
*.iopin D3
*.iopin D2
*.iopin S1
*.iopin D1
*.iopin vdd
*.iopin vref
*.iopin gnd
x1 D_MSB vref S_MSB gnd net2 vdd T_gate
x2 net2 gnd net1 gnd D_MSB vdd T_gate
x3 D6 vref S6 gnd net3 vdd T_gate
x4 net3 gnd S6 gnd D6 vdd T_gate
x5 D5 vref S5 gnd net4 vdd T_gate
x6 net4 gnd S5 gnd D5 vdd T_gate
x7 D3 vref S3 gnd net6 vdd T_gate
x8 D4 vref S4 gnd net5 vdd T_gate
x9 net5 gnd S4 gnd D4 vdd T_gate
x10 net6 gnd S3 gnd D3 vdd T_gate
x11 D2 vref S2 gnd net7 vdd T_gate
x12 net7 gnd S2 gnd D2 vdd T_gate
x13 D1 vref S1 gnd net8 vdd T_gate
x14 net8 gnd S1 gnd D1 vdd T_gate
x15 vdd D_MSB net2 gnd inverter
x16 vdd D6 net3 gnd inverter
x17 vdd D5 net4 gnd inverter
x18 vdd D4 net5 gnd inverter
x19 vdd D3 net6 gnd inverter
x20 vdd D2 net7 gnd inverter
x21 vdd D1 net8 gnd inverter
.ends


* expanding   symbol:  C-DAC.sym # of pins=10
** sym_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/C-DAC.sym
** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/C-DAC.sch
.subckt C-DAC vin vo C5 C6 C3 C4 C2 C1 vref C_MSB
*.iopin vin
*.iopin vo
*.iopin C6
*.iopin C5
*.iopin C4
*.iopin C3
*.iopin C2
*.iopin C1
*.iopin vref
*.iopin C_MSB
XC1 vo vref cap_cmim w=5.71e-6 l=5.71e-6 m=1
XC2 vo C1 cap_cmim w=5.71e-6 l=5.71e-6 m=1
XC3 vo C2 cap_cmim w=5.71e-6 l=5.71e-6 m=2
XC4 vo C3 cap_cmim w=5.71e-6 l=5.71e-6 m=4
XC5 vo C4 cap_cmim w=5.71e-6 l=5.71e-6 m=8
XC6 vo C5 cap_cmim w=5.71e-6 l=5.71e-6 m=16
XC7 vo C6 cap_cmim w=5.71e-6 l=5.71e-6 m=32
XC8 vo C_MSB cap_cmim w=5.71e-6 l=5.71e-6 m=64
R1 vin vo 1 m=1
XC9 net1 net2 cap_cmim w=5.71e-6 l=5.71e-6 m=40
* noconn #net1
* noconn #net2
.ends


* expanding   symbol:  nand_gate.sym # of pins=5
** sym_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/nand_gate.sym
** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/nand_gate.sch
.subckt nand_gate vdd Vo B A gnd
*.iopin vdd
*.iopin gnd
*.ipin A
*.opin Vo
*.ipin B
XM5 Vo A vdd vdd sg13_lv_pmos w=0.5u l=0.13u ng=1 m=1
XM6 Vo A net1 gnd sg13_lv_nmos w=0.25u l=0.13u ng=1 m=1
XM1 net1 B gnd gnd sg13_lv_nmos w=0.25u l=0.13u ng=1 m=1
XM2 Vo B vdd vdd sg13_lv_pmos w=0.5u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  bootstrap_switch.sym # of pins=5
** sym_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/bootstrap_switch.sym
** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/bootstrap_switch.sch
.subckt bootstrap_switch vdd vi vo clk gnd
*.iopin gnd
*.iopin vdd
*.iopin vi
*.iopin vo
*.iopin clk
XM1 vdd net2 net1 gnd sg13_lv_nmos w=1.3u l=0.13u ng=1 m=1
XM3 vdd net1 net2 gnd sg13_lv_nmos w=1.3u l=0.13u ng=1 m=1
XM4 net7 net10 net3 net3 sg13_lv_pmos w=500n l=0.13u ng=1 m=1
XM2 vdd net2 net3 gnd sg13_lv_nmos w=1.3u l=0.13u ng=1 m=1
XM6 net5 gp vdd vdd sg13_lv_pmos w=500n l=130n ng=1 m=1
XM5 net5 vdd net4 gnd sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XM7 net4 clk_not gnd gnd sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XC5 net2 clk_not cap_cmim w=4.665e-6 l=6.99e-6 m=1
XC6 net3 net6 cap_cmim w=9.39e-6 l=6.99e-6 m=1
XM8 net6 net5 vi gnd sg13_lv_nmos w=3u l=0.13u ng=1 m=1
XM9 vo net7 vi gnd sg13_lv_nmos w=2.5u l=0.13u ng=1 m=1
XM10 net8 vdd net7 gnd sg13_lv_nmos w=500n l=0.13u ng=1 m=1
XM11 gnd clk_not net8 gnd sg13_lv_nmos w=500n l=0.13u ng=1 m=1
XM12 net6 clk_not gnd gnd sg13_lv_nmos w=1.3u l=0.4u ng=1 m=1
XC1 net1 net9 cap_cmim w=4.665e-6 l=6.99e-6 m=1
x1 vdd clk clk_not gnd inverter
x2 vdd gp net10 gnd inverter
x3 vdd clk_not net9 gnd inverter
.ends


* expanding   symbol:  dynamic_comparator.sym # of pins=8
** sym_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/dynamic_comparator.sym
** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/dynamic_comparator.sch
.subckt dynamic_comparator vdd vbias v+ v- out- out+ clk gnd
*.iopin vdd
*.iopin gnd
*.ipin v+
*.ipin v-
*.ipin vbias
*.ipin clk
*.opin out-
*.opin out+
XM13 net1 clk net2 vdd sg13_lv_pmos w=18u l=0.3u ng=4 m=1
XM3 net2 vbias vdd vdd sg13_lv_pmos w=18u l=0.3u ng=4 m=1
XM2 net4 v+ net1 vdd sg13_lv_pmos w=32u l=200n ng=4 m=1
XM1 net3 v- net1 vdd sg13_lv_pmos w=32u l=200n ng=4 m=1
XM4 out- net3 vdd vdd sg13_lv_pmos w=8u l=0.200u ng=1 m=1
XM5 out+ net4 vdd vdd sg13_lv_pmos w=8u l=0.200u ng=1 m=1
XM11 gnd net4 out+ gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
XM12 gnd net3 out- gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
XM6 gnd net3 net4 gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
XM10 gnd clk net4 gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
XM7 gnd clk net3 gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
XM8 gnd net4 net3 gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
.ends


* expanding   symbol:  T_gate.sym # of pins=6
** sym_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/T_gate.sym
** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.iopin Vout
*.iopin Vin
*.iopin !Control
*.iopin Control
*.iopin gnd
*.iopin vdd
XM1 Vin Control Vout gnd sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2 Vin !Control Vout vdd sg13_lv_pmos w=2u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/inverter.sym
** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/inverter.sch
.subckt inverter vdd vi vo gnd
*.iopin vi
*.iopin vo
*.iopin gnd
*.iopin vdd
XM5 vo vi vdd vdd sg13_lv_pmos w=800n l=130n ng=1 m=1
XM7 vo vi gnd gnd sg13_lv_nmos w=400n l=130n ng=1 m=1
.ends

.GLOBAL GND
.end
